US04603012
A solution of 2,2,5,5-Tetramethyl-1-cyclopentylmethyl bromide in ether is added slowly to magnesium turnings until the Grignard reagent begins to form. The remainder of the alkyl bromide is then added and the mixture is stirred until all of the magnesium has dissolved. At 0° C. a solution of N-Boc-2-amino-2-methylpropanal is then added and the mixture is stirred overnight. The reaction is quenched with 1M HCl, extracted with ether and the extracts are evaporated. The residue dissolves in dioxane and 2M H2SO4 is added. The mixture is heated until the alcohol is dehydrated as shown by thin layer chromatography. Water is added and the mixture extracted with ether. The organic layer is dried over MgSO4 and evaporated to give N-Boc-2-amino-2-methyl-4-(2,2,5,5-tetramethyl-1-cyclopentyl)butene.

reactant | 2,2,5,5-Tetramethyl-1-cyclopentylmethyl bromide | CC1(C(C(CC1)(C)C)CBr)C | C10H19Br
reactant | magnesium | [Mg] | Mg
reactant | N-Boc-2-amino-2-methylpropanal | C(=O)(OC(C)(C)C)NC(C=O)(C)C | C9H17NO3
solvent | ether | CCOCC | C4H10O
product | N-Boc-2-amino-2-methyl-4-(2,2,5,5-tetramethyl-1-cyclopentyl)butene | C(=O)(OC(C)(C)C)NC(C)(C=CC1C(CCC1(C)C)(C)C)C | C19H35NO2
